US04156732
2-Ethyl-3-(4-chloro-3-sulfamoylbenzoyl)-5-methyl-benzo[b]furan
is obtained as described in Example 1 from 10 g 4-chloro-3-sulfamoylbenzoyl chloride and 6.2 g 2-ethyl-5-methylbenzo[b]furan in the presence of 11.4 g aluminum chloride. Colorless crystals, m.p. 147°-150° C. (from methanol).

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 10 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 2-ethyl-5-methylbenzo[b]furan | 6.2 g | C(C)C1=CC2=C(O1)C=CC(=C2)C | C11H12O
reactant | aluminum chloride | 11.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methanol | CO | CH4O
product | 2-Ethyl-3-(4-chloro-3-sulfamoylbenzoyl)-5-methyl-benzo[b]furan | C(C)C1=C(C2=C(O1)C=CC(=C2)C)C(C2=CC(=C(C=C2)Cl)S(N)(=O)=O)=O | C18H16ClNO4S
